US07820821B2
1-Isopropyl-2-isothiocyanatobenzene (5 mmol) and methyl 3,4-diaminobenzoate (5 mmol) were reacted, following general procedure B, to yield 2-(2-Isopropylphenylamino)-1H-benzimidazole-5-carboxylic acid methyl ester, which was purified by silica gel chromatography using DCM/ethyl acetate as eluent.

reactant | 1-Isopropyl-2-isothiocyanatobenzene | 5 mmol | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
reactant | methyl 3,4-diaminobenzoate | 5 mmol | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
product | 2-(2-Isopropylphenylamino)-1H-benzimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(NC(=N2)NC2=C(C=CC=C2)C(C)C)C=C1 | C18H19N3O2
